US04002647
A solution of 1.5 g. of 3,7,7-trimethyl-2,4-octadien-1-ol in 15 ml. of acetyl ether is added dropwise at -20° C. to 1.20 g. of phosphorus tribromide. The temperature is allowed to rise to 0° C. in the course of 30 minutes and then the mixture poured onto 30 ml. of ice-water. The mixture is extracted three times with diethyl ether, the extracts washed with water, 10% by weight aqueous potassium bicarbonate solution and semi-saturated and saturated aqueous sodium chloride solution and then dried over sodium sulfate. After removal of the solvent under reduced pressure in the cold, there is obtained 1-bromo-3,7,7-trimethyl-2,4-octadiene which exhibits a spot in the thin-layer chromatogram [Rf = 0.63; hexane/ethyl acetate (4:1 parts by volume)]. This substance is used in the process without further purification.

reactant | 3,7,7-trimethyl-2,4-octadien-1-ol | CC(=CCO)C=CCC(C)(C)C | C11H20O
reactant | acetyl ether | C(C)(=O)OC(C)=O | C4H6O3
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 1-bromo-3,7,7-trimethyl-2,4-octadiene | BrCC=C(C=CCC(C)(C)C)C | C11H19Br
